US09227919B2
tert-Butyl 3-(2-oxoethyl)-3,4-dihydroquinoline-1(2H)-carboxylate
To a solution of (E)-tert-butyl 3-(2-methoxyvinyl)-3,4-dihydroquinoline-1(2H)-carboxylate (225 mg, 0.778 mmol) in THF (5 mL) dilute HCl (0.2 ml, 6.58 mmol) was added. The reaction mixture was stirred overnight at RT. The progress of reaction was monitored by TLC. After completion of reaction methanol was evaporated under reduced pressure. Further it was purified by flash column chromatography (15% ethyl acetate in hexane) to get the title compound (160 mg, 30.4% yield); m/z-297.6 as Na+1.

reactant | (E)-tert-butyl 3-(2-methoxyvinyl)-3,4-dihydroquinoline-1(2H)-carboxylate | 0.778 mmol, 225 mg | CO/C=C/C1CN(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C17H23NO3
reactant | THF | 6.58 mmol, 5 mL | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | tert-Butyl 3-(2-oxoethyl)-3,4-dihydroquinoline-1(2H)-carboxylate | 160 mg, 30.4% yield | O=CCC1CN(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C16H21NO3
